US06506773B2
4-[1-tert-Butoxycarbonyl-2-(3,4-dihydro-1H-isoquinoline-2-sulfonyl)-ethyl]-piperidine-1-carboxylic acid benzyl ester
1,2,3,4-Tetrahydroisoquinoline (0.17 ml) was dissolved in dichloromethane (40 ml) at room temperature under nitrogen. Triethylamine (0.19 ml) was added, followed by 4-(1-tert-butoxycarbonyl-2-chlorosulfonyl-ethyl)-piperidine-1-carboxylic acid benzyl ester (500 mg) as a solution in dichloromethane (1.5 ml). The reaction was left to stir for 64 h then diluted with dichloromethane (60 ml), washed with 10% citric acid solution (2×50 ml), water (2×50 ml), saturated sodium bicarbonate solution (2×50 ml) and brine (50 ml). The organic layer was then dried (MgSO4), filtered and the solvent removed under reduced pressure to give the title compound (506 mg, 83%) as a yellow oil.

reactant | 1,2,3,4-Tetrahydroisoquinoline | 0.17 ml | C1NCCC2=CC=CC=C12 | C9H11N
reactant | Triethylamine | 0.19 ml | C(C)N(CC)CC | C6H15N
reactant | 4-(1-tert-butoxycarbonyl-2-chlorosulfonyl-ethyl)-piperidine-1-carboxylic acid benzyl ester | 500 mg | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C(CS(=O)(=O)Cl)C(=O)OC(C)(C)C | C20H28ClNO6S
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1.5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | 4-[1-tert-Butoxycarbonyl-2-(3,4-dihydro-1H-isoquinoline-2-sulfonyl)-ethyl]-piperidine-1-carboxylic acid benzyl ester | 506 mg, 83% | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C(CS(=O)(=O)N1CC2=CC=CC=C2CC1)C(=O)OC(C)(C)C | C29H38N2O6S
